US05521177
a) Tert.butyl 4'-[(2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazol -1-yl)-methyl]-biphenyl-2-carboxylic acid
Prepared analogously to Example 1a from 2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazole and tert.butyl 4'-bromomethyl-biphenyl-2-carboxylate.

reactant | 2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazole | C(CC)C1=NC2=C(N1)C=C(C=C2C)N2C(C=1C(C2=O)=CC=CC1)=O | C19H17N3O2
reactant | tert.butyl 4'-bromomethyl-biphenyl-2-carboxylate | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C18H19BrO2
product | Tert.butyl 4'-[(2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazol -1-yl)-methyl]-biphenyl-2-carboxylic acid | C(C)(C)(C)C1=C(C(=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C=C(C=C2C)N2C(C=1C(C2=O)=CC=CC1)=O)CCC)C(=O)O | C37H35N3O4
